US06541501B2
Toluene-4-sulfonic acid-2-oxo-1,2,3,6,7,8-hexahydro-9-oxa-1,3-diaza-cyclopenta[a]naphthalen-8-ylmethyl ester
A solution of 8-hydroxymethyl-3,6,7,8-tetrahydro-1H-9-oxa-1,3-diaza-cyclopenta[a]naphthalen-2-one (331 mg, 1.5 mmol) and p-toluenesulfonyl chloride (572 mg, 3 mmol) in anhydrous pyridine (50 mL) was stirred for 12 hours followed by removal of the solvent in vacuo to a residue. The residue was dissolved in ethyl acetate (100 mL) and washed with water (3×30 mL). The organic layer was dried over anhydrous Na2SO4 and filtered. The solvent was removed in vacuo to a residue followed by chromatography (20% CH2Cl2-hexanes) to afford 466 mg (83%) of the title compound as a solid: mp 205° C.; 1H NMR (400 MHz, CDCl3): 1.87 (m, 1H), 2.02 (m, 1H), 2.48 (s, 3H), 2.81 (m, 2H), 4.22 (m, 2H), 4.31 (m, 1H), 6.56 (d, J=8.0 Hz, 1H), 6.70 (d, J=8.0 Hz, 1H), 7.38 (d, J=8.1 Hz, 2H), 7.58 (s, 1H), 7.83 (d, J=8.1 Hz, 1H), 8.18 (s, 1H); IR: 3280, 3000, 2950, 1700, 1510, 1350 cm−1; MS 375 [M+H]+.

reactant | 8-hydroxymethyl-3,6,7,8-tetrahydro-1H-9-oxa-1,3-diaza-cyclopenta[a]naphthalen-2-one | 1.5 mmol, 331 mg | OCC1CCC2=CC=C3C(=C2O1)NC(N3)=O | C11H12N2O3
reactant | p-toluenesulfonyl chloride | 3 mmol, 572 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | Toluene-4-sulfonic acid-2-oxo-1,2,3,6,7,8-hexahydro-9-oxa-1,3-diaza-cyclopenta[a]naphthalen-8-ylmethyl ester | 466 mg, 83% | O=C1NC=2C(=C3OC(CCC3=CC2)COS(=O)(=O)C2=CC=C(C=C2)C)N1 | C18H18N2O5S
